US06610685B2
37.4 mL of a 1.6 M solution of n-butyllithium in n-hexane was added at −78° C. dropwise during 10 min to a solution of 18.65 g 6-cyclopropoxy-8-iodo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene in 250 mL tetrahydrofuran. The mixture was stirred at −78° C. for 30 min. 15.55 g (S)-4-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester was added to the resulting suspension and the mixture stirred at −78° C. for 30 min and at 0° C. for 45 min. The reaction mixture was distributed between ice-cold 10% citric acid and ethyl acetate. The phases separated, the organic phase washed with water and brine, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel with hexane: ethyl acetate=4: 1 to yield 11.91 g (S)-[2-(6-cyclopropoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester as beige crystals melting at 83-84° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 6-cyclopropoxy-8-iodo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 18.65 g | C1(CC1)OC1=CC=2C(=C3N(C2C=C1)CCC3)I | C14H14INO
reactant | (S)-4-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 15.55 g | C(C)(C)(C)OC(=O)N1S(OC[C@@H]1C)(=O)=O | C8H15NO5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | (S)-[2-(6-cyclopropoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 11.91 g | C(C)(C)(C)OC(N[C@H](CC1=C2N(C=3C=CC(=CC13)OC1CC1)CCC2)C)=O | C22H30N2O3
